US08242104B2
To a solution of 2-oxo-3,8-diazabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (108 mg, 0.48 mmol) in DCM (0.5 mL) at 0° C. was added dropwise, TFA (0.5 ml) and the reaction mixture stirred for 30 min. The reaction was warmed to RT and stirred for 1 h before being concentrated in vacuo and triturated with diethyl ether. The resultant residue was subjected to flash chromatography (Isolute NH2, 50% methanol in DCM) to give 3,8-Diaza-bicyclo[3.2.1]octan-2-one as a white solid (69 mg, quantitative). LCMS): RT=0.32 min, [M+H]+=127. 1H NMR 400 MHz (DMSO-d6) δ: 7.02 (1H, br, s), 3.53 (1H, m), 3.24 (1H, dd, J=11.00, 4.14 Hz), 2.80-2.79 (1H, m), 2.77 (1H, m), 1.78 (3H, m), 1.57-1.56 (1H, m).

reactant | 2-oxo-3,8-diazabicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.48 mmol, 108 mg | C(C)(C)(C)OC(=O)N1C2C(NCC1CC2)=O | C11H18N2O3
reactant | TFA | 0.5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 3,8-Diaza-bicyclo[3.2.1]octan-2-one | C12C(NCC(CC1)N2)=O | C6H10N2O
